US07705005B2
({4′-[(Trifluoromethyl)oxy]-4-biphenylyl}methyl)amine hydrochloride
A solution of 4′-[(trifluoromethyl)oxy]-4-biphenylcarbonitrile (prepared from {4-[(trifluoromethyl)oxy]phenyl}boronic acid by a method analogous to that described for the 4′-trifluoromethyl analogue, Intermediate D6 of WO 02/30911) (66.6 g) in ethanol (2000 ml) and concentrated hydrochloric acid (100 ml) was hydrogenated over Pearlman's catalyst (10 g) at 25 psi until reduction was complete. The catalyst was removed by filtration through celite, then the solvent was removed in vacuo to obtain the desired product.

reactant | 4′-[(trifluoromethyl)oxy]-4-biphenylcarbonitrile | FC(OC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)(F)F | C14H8F3NO
reactant | {4-[(trifluoromethyl)oxy]phenyl}boronic acid | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | ethanol | 2000 ml | C(C)O | C2H6O
catalyst | Pearlman's catalyst | 10 g | [OH-].[OH-].[Pd+2]
product | ({4′-[(Trifluoromethyl)oxy]-4-biphenylyl}methyl)amine hydrochloride | Cl.FC(OC1=CC=C(C=C1)C1=CC=C(C=C1)CN)(F)F | InChI=1S/C14H12F3NO.ClH/c15-14(16,17)19-13-7-5-12(6-8-13)11-3-1-10(9-18)2-4-11;/h1-8H,9,18H2;1H
